US07781478B2
A biphasic mixture of 2-(4-amino-phenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (70 mg, 0.24 mmol), prepared as described in example 1Ga step B, and ethyl chloroformate (0.03 mL, 0.29 mmol) in EtOAc (3 mL) and saturated NaHCO3 (3 mL) is prepared at 0° C. and then allowed to warm to room temperature and stirred for 24 h. The reaction is then diluted with H2O and extracted with EtOAc (2×). The organic phases are washed with H2O and saturated NaCl and then dried and concentrated. Flash chromatography (EtOAc/hexanes 20-40%) gives 48 mg (55%) of [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-carbamic acid ethyl ester as an off-white solid.

reactant | 2-(4-amino-phenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.24 mmol, 70 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O
reactant | ethyl chloroformate | 0.29 mmol, 0.03 mL | ClC(=O)OCC | C3H5ClO2
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
product | [4-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-carbamic acid ethyl ester | 48 mg, 55% | C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC)=O | C21H21N3O3
